US06080750
6-Chloro-2,5-diamino-4-[(3-hydroxypropyl)amino]pyrimidine dihydrochloride (compound No. 114)
6-Chloro-2,5-diamino-4-[(3-hydroxypropyl)amino]pyrimidine (0.290 g, 1.0 mmol) was dissolved in 20 ml of methanol, and 3 equivalents of 14% HCl-methanol solution was carefully added under ice-cooling. The mixture was warmed to room temperature and the solvent was distilled away to give white crystals (0.26 g, 90.0%), m.p. 120-131° C. (ether).

reactant | 6-Chloro-2,5-diamino-4-[(3-hydroxypropyl)amino]pyrimidine | 1.0 mmol, 0.290 g | ClC1=C(C(=NC(=N1)N)NCCCO)N | C7H12ClN5O
reactant | HCl methanol | 3 equivalents | Cl.CO
solvent | methanol | 20 ml | CO | CH4O
product | 6-Chloro-2,5-diamino-4-[(3-hydroxypropyl)amino]pyrimidine dihydrochloride | 0.26 g, 90.0% | Cl.Cl.ClC1=C(C(=NC(=N1)N)NCCCO)N | InChI=1S/C7H12ClN5O.2ClH/c8-5-4(9)6(11-2-1-3-14)13-7(10)12-5;;/h14H,1-3,9H2,(H3,10,11,12,13);2*1H
